US04857530
3,4-Dichloro-N-2-propynylbenzenamine
A solution of 16.20 g (0.1 mol) of 3,4-dichlorobenzenamine, 16.36 g (0.11 mol) of an 80% solution of 3-bromo-1-propyne in toluene, and 17.4 ml (0.11 mol) of N-ethyl-N-(1-methylethyl)-2-propanamine in 350 ml of toluene is heated at 90° for six hours. Ethyl acetate is added to the reaction suspension, and the suspension is washed three times with water. The organic layer is separated, dried (magnesium sulfate), and concentrated to give 19.85 g of a dark brown liquid. This is applied to a column of 1 kg of flash silica gel packed in hexane/dichloromethane (5:1). Elution with the same solvent gives 1.48 g (11.3%) of 3,4-dichloro-N,N-di-2-propynylbenzenamine as a yellow oil which crystallizes on standing; mp 48°-50° C. Further elution gives 15.80 g (79%) of the desired product as a gold liquid. NMR (200 MHz, DMSO) δ=3.13 (t, J<3 Hz, 1, C≡CH), 3.92 (d, J<3 Hz, 2, CH2), 6.48 (br s, 1, NH, disappears on D2O addition), 6.64 (dd, J=8.9 Hz, 2.8 Hz, 1, 6H), 6.84 (d, J<3 Hz, 1, 2H), 7.32 (d, J=8.9 Hz, 1, 5H); MS (DEI): m/e=199 (M+); IR (LF): =3297, 1601, 1494 cm-1.

reactant | 3,4-dichlorobenzenamine | 0.1 mol, 16.20 g | ClC=1C=C(C=CC1Cl)N | C6H5Cl2N
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
reactant | N-ethyl-N-(1-methylethyl)-2-propanamine | 0.11 mol, 17.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dichloro-N-2-propynylbenzenamine | 19.85 g | ClC=1C=C(C=CC1Cl)NCC#C | C9H7Cl2N
